US07846956B2
1.29 g of 5-t-butyl-isoxazole-3-carbaldehyde was dissolved in 10 ml of tetrahydrofuran, and 10 ml of a 0.93 M solution of methylmagnesium bromide in tetrahydrofuran was then added. The mixture was stirred for 1 hour under ice-cooling. After water was added, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 1.18 g of 1-(5-t-butyl-isoxazol-3-yl)ethanol.

reactant | 5-t-butyl-isoxazole-3-carbaldehyde | 1.29 g | C(C)(C)(C)C1=CC(=NO1)C=O | C8H11NO2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(5-t-butyl-isoxazol-3-yl)ethanol | 1.18 g | C(C)(C)(C)C1=CC(=NO1)C(C)O | C9H15NO2
